US06608203B2
2-Benzylamino-1-(4-methoxy-phenyl)-ethanone
To a solution of Et3N (13.55 g, 133.9 mmol) and benzylamine (11.96 g, 111.6 mmol) in THF (25 ml) was added 2-bromo-1-(4-methoxy-phenyl)-ethanone (25.56 g, 111.6 mmol). The reaction was stirred at RT for 60 minutes, then filtered and the filtrate concentrated in vacuo. The residue was purified via flash chromatography (SiO2, gradient column 35% to 80% EtOAc/hexanes) to give the title product (17.12 g, 67.0 mmol, 60% yield).

reactant | Et3N | 133.9 mmol, 13.55 g | CCN(CC)CC | C6H15N
reactant | benzylamine | 111.6 mmol, 11.96 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-bromo-1-(4-methoxy-phenyl)-ethanone | 111.6 mmol, 25.56 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-Benzylamino-1-(4-methoxy-phenyl)-ethanone | 67.0 mmol, 17.12 g, 60% yield | C(C1=CC=CC=C1)NCC(=O)C1=CC=C(C=C1)OC | C16H17NO2
